US04435405
3-(p-Carboxyphenyl)-2-(2-dimethylaminoethylthio)quinoline (0.7 g.) was added to a solution of thionyl chloride (1.5 ml.) in methanol (20 ml.) at 0°. The mixture was stirred at ambient temperature for 16 hr., and the solvent then evaporated. The solid residue was crystallised from methanol-ethyl acetate to give 2-(2-dimethylaminoethylthio)-3-(p-methoxycarbonylphenyl)quinoline hydrochloride, m.p. 224-5°.

reactant | 3-(p-Carboxyphenyl)-2-(2-dimethylaminoethylthio)quinoline | 0.7 g | C(=O)(O)C1=CC=C(C=C1)C=1C(=NC2=CC=CC=C2C1)SCCN(C)C | C20H20N2O2S
reactant | thionyl chloride | 1.5 ml | S(=O)(Cl)Cl | Cl2OS
reactant | methanol | 20 ml | CO | CH4O
product | 2-(2-dimethylaminoethylthio)-3-(p-methoxycarbonylphenyl)quinoline hydrochloride | Cl.CN(CCSC1=NC2=CC=CC=C2C=C1C1=CC=C(C=C1)C(=O)OC)C | InChI=1S/C21H22N2O2S.ClH/c1-23(2)12-13-26-20-18(14-17-6-4-5-7-19(17)22-20)15-8-10-16(11-9-15)21(24)25-3;/h4-11,14H,12-13H2,1-3H3;1H
